Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
fatigue, shortness of breath, unintentional weight loss
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ w/ PMHx latent Tb s/p INH ___ referred to ED from PCP for
anemia evaluation. Patient was seen today by PCP for annual
physical exam. She reported fatigue x 3 months with SOB and DOE.
Feels lightheaded, globally weak and unsteady on her feet. PCP
checked CBC that showed pancytopenia, particularly severe anemia
and referred patient to the ED for evaluation. Patient denies
fevers. +chills. Also reports 25lb weight loss x 3 months with
poor appetite. No night sweats. ROS otherwise negative. No
previous hx of anemia. Denies BRBPR, melena. No vaginal 
bleeding.
Has bladder cyst with chronic low-level hematuria. Has new
tingling in R finger tips x 1 week. ETOH only socially. 

In the ED, initial VS were: T98.2 HR106 BP140/72 RR20 96%RA
Exam notable for: NAD, conjunctival pallor, MMM, RRR, CTAB, soft
NT ND, no inguinal/axillary/cervical LAD, no lower extremity
edema 
ECG: NSR NA NI no concerning ST/T changes
Labs showed:  
WBC 2.7 H/H 7.1/20.5 Plt 127 MCV 117 LDH 2184 Retic 1.8
BMP notable for Cr 0.6 Ca 9.1 
Coags wnl, fibrinogen 192 haptoglobin <10
Imaging showed:  none
Consults:  none
Patient received:  1U PRBCs
Transfer VS were:  T98.4 HR88 BP110/57 RR16 96% RA

On arrival to the floor, patient reports feeling worried about
her blood counts and what this could mean.  She endorses HPI as
above and stated her symptoms of fatigue and poor appetite
started ~3 months ago.  She has had weight loss because she 
feels
too tired to eat.  She denies a history of anemia or low blood
counts.  She denies recent illness but did have one day of
vomiting in ___ that quickly resolved.  She denies recent
travel.  She rarely takes an advil for headache.  Denies fevers,
night sweats, rashes, easy bruising, swollen lymph nodes, mouth
sores, dysphagia, odynophagia, abdominal pain, n/v/d,
hematochezia, melena, dysuria, joint pain, diplopia, loss of
vision, blurry vision, tinnitus, hearing changes, gait
instability, vertigo, syncope, chest pain, dyspnea, cough,
palpitations. ROS positive for chills, mild frontal head 
pressure
currently and mild bilateral calf cramping first noted when
walking from stretcher to bed. 
 
Past Medical History:
- History positive PPD ___, treated for 9 months with INH,
negative CXR, negative sputum
- Varicose veins
- Seborrheic keratosis, face
- s/p APPY
- s/p hysterectomy and salpingo-oophorectomy, unilateral, at age
___ for hemorrhage and fibroid tumors
- s/p left cataract extraction ___ ___
- s/p laser surgery for Yag capsulotomy in ___ by Dr.
___ 
 
___ History:
___
Family History:
Mother died in her mid ___ with heart aneurysm,
history of CVA in her ___, history of high cholesterol.  Father
died when she was ___ of unknown cancer. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM
VS:  98.3128 / ___
GENERAL: fatigued appearing woman, NAD, calm and cooperative 
HEENT: EOMI PERRLA +conjunctival pallor 
NECK: supple, no LAD
HEART: RRR, mild systolic flow murmur
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles  
ABDOMEN: nondistended, nontender in all quadrants, no
hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing, or edema; +varicose veins
bilaterally  
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, moving all 4 extremities with purpose, strength 
___
bilaterally, sensation intact, CN-12 intake, gait wnl
independently ambulating, finger to nose testing intact   
SKIN: warm and well perfused, no bruising/rashes  

DISCHARGE PHYSICAL EXAM
VS: 24 HR Data (last updated ___ @ 426)
    Temp: 99.3 (Tm 99.3), BP: 99/64 (89-103/44-65), HR: 89
(80-89), RR: 20 (___), O2 sat: 94% (94-99), O2 delivery: Ra  
GENERAL: Fatigued-appearing woman lying in bed in NAD.
HEENT: EOMI, PERRLA, conjunctival pallor.
NECK: Supple, no cervical, supraclavicular, axillary, or 
inguinal
LAD.
HEART: RRR, nl S1 S2, no M/R/G.
LUNGS: CTAB, no W/R/R, breathing comfortably on room air.
ABDOMEN: SNDNT in all quadrants, no HSM.
EXTREMITIES: WWP. No C/C/E. Varicose veins L > R.
PULSES: 2+ DP pulses bilaterally.
NEURO: A&Ox3. Months of year backwards intact. Speech fluent,
comprehension intact, repetition intact, and registers ___ and
recalls ___ at 3 min. Moving all 4 extremities with purpose,
strength ___ bilaterally, sensation intact, CN-12 intake, gait
wnl independently ambulating, finger to nose testing intact  
SKIN: warm and well perfused, no bruising/rashes  
 
Pertinent Results:
ADMISSION LABS
==============
___ 04:55PM   WBC-3.0* RBC-1.76* HGB-7.2* HCT-20.8* 
MCV-118* MCH-40.9* MCHC-34.6 RDW-16.8* RDWSD-72.2*
___ 04:55PM   TSH-2.8
___ 04:55PM   HDL CHOL-25* CHOL/HDL-6.4 ___
___ 04:55PM   %HbA1c-6.2* eAG-131*
___ 04:55PM   ALBUMIN-4.5 CALCIUM-9.1 CHOLEST-159
___ 04:55PM   ALT(SGPT)-29 AST(SGOT)-49* ALK PHOS-44 TOT 
BILI-1.6*
___ 04:55PM   UREA N-14 CREAT-0.6 SODIUM-136
___ 04:55PM   POTASSIUM-4.0
___ 11:00PM   RET AUT-1.8 ABS RET-0.03
___ 11:00PM   ___ 11:00PM   ___ PTT-27.6 ___
___ 11:00PM   HYPOCHROM-NORMAL ANISOCYT-1+* POIKILOCY-2+* 
MACROCYT-3+* MICROCYT-NORMAL POLYCHROM-1+* OVALOCYT-1+* 
TEARDROP-1+*
___ 11:00PM   WBC-2.7* RBC-1.75* HGB-7.1* HCT-20.5* 
MCV-117* MCH-40.6* MCHC-34.6 RDW-16.6* RDWSD-70.5*
___ 11:00PM   NEUTS-63 BANDS-0 ___ MONOS-1* EOS-6 
BASOS-0 ATYPS-1* ___ MYELOS-0 AbsNeut-1.70 AbsLymp-0.81* 
AbsMono-0.03* AbsEos-0.16 AbsBaso-0.00*
___ 11:00PM   HCV Ab-NEG
___ 11:00PM   calTIBC-306 VIT B12-<150* FOLATE-17 
HAPTOGLOB-<10* FERRITIN-578* TRF-235
___ 11:00PM   ___

URINE STUDIES
=============
___ 11:00PM   PHOSPHATE-3.9 MAGNESIUM-2.0 URIC ACID-4.7 
IRON-163*
___ 11:00PM   LD(LDH)-2184*
___ 07:35AM   ___ 07:35AM   HIV Ab-NEG
___ 10:40PM URINE  COLOR-Yellow APPEAR-Hazy* SP ___
___ 10:40PM URINE  BLOOD-SM* NITRITE-NEG PROTEIN-TR* 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-2* PH-6.0 
LEUK-LG*
___ 10:40PM URINE  RBC-5* WBC-44* BACTERIA-FEW* YEAST-NONE 
EPI-2 TRANS EPI-<1
___ 10:40PM URINE  MUCOUS-FEW*

IMAGING
=======
CXR ___
There is no focal consolidation, pleural effusion or 
pneumothorax identified.  The size of the cardiomediastinal 
silhouette is within normal limits. 

CTA CHEST ___. Suboptimal opacification of the pulmonary vasculature with no 
definite 
filling defects within the lobar arteries.  Limited assessment 
of the 
subsegmental vessels due to suboptimal opacification and 
breathing motion. 
2. Left renal cortical hypodensities with one in the interpolar 
region showing high attenuation and which may represent 
hemorrhagic contents versus enhancement.  Recommend further 
assessment on ultrasound. 
3. Bilateral adnexal cystic lesions measuring up to 4.4 cm on 
the left, 
recommend further assessment with a pelvic ultrasound. 

RENAL AND PELVIC ULTRASOUND ___. Simple appearing renal cysts.  No worrisome renal lesions. 
2. Hepatic steatosis. 
3. Left adnexal cystic structure measuring 4.2 x 3.1 x 4.5 cm, 
indeterminate.  Recommend follow-up ultrasound in ___ months to 
ensure stability. 
4. Probable small para ovarian cyst on the right, measuring up 
to 1.6 cm. 

DISCHARGE LABS
==============
___ 06:35AM BLOOD WBC-2.9* RBC-1.87* Hgb-7.4* Hct-21.1* 
MCV-113* MCH-39.6* MCHC-35.1 RDW-19.5* RDWSD-78.5* Plt ___
___ 06:35AM BLOOD Glucose-99 UreaN-9 Creat-0.5 Na-142 K-3.8 
Cl-104 HCO3-28 AnGap-10
___ 06:35AM BLOOD ALT-22 AST-34 LD(LDH)-1823* AlkPhos-39 
TotBili-1.5
___ 06:35AM BLOOD Calcium-9.0 Phos-3.1 Mg-2.___ w/ h/o latent TB s/p INH ___, chronic bladder cyst w/ 
hematuria, who p/w 3 months of progressive fatigue, DOE, and 25 
lbs weight loss found to have pancytopenia. 

#ACUTE ISSUES:
===============
#Pancytopenia
#Severe B12 deficiency
Presented to ED at referral of primary care physician for 
fatigue, dyspnea, global weakness, and 25lb unintentional weight 
loss, found to have new hypo-proliferative macrocytic anemia, 
leukopenia and thrombocytopenia. She was transfused 1u PRBC in 
the ED. Upon further workup, she was found to have severe B12 
deficiency (B12 <150 on admission), with folate WNL, c/f a 
malabsorptive process like pernicious anemia given the absence 
of vegetarianism or other recent dietary changes. HCV and HIV 
were negative. A marrow infiltrative process (e.g. malignancy, 
myelofibrosis, MDS) or marrow failure was also considered, but 
the hematology/oncology team recommended treating the B12 
deficiency before pursuing more invasive studies like a bone 
marrow biopsy. Intrinsic factor autoantibody test was sent, 
still pending at discharge. The patient was treated with daily 
1000mcg B12 IM injections, with plans for a 7 day course; then 
weekly injections for 4 weeks. At the time of discharge, the 
heme/onc team was working to schedule follow up for her in their 
practice within 4 weeks.
- Discharge Hgb: 7.3
- Discharge WBC: 2.9
- Discharge Plt: 124

#Hemolysis
#Elevated ___
Hemolysis labs notably positive with elevated LDH and low 
haptoglobin, which, per hematology/oncology consultation, were 
thought to be secondary to her severe B12 deficiency. Despite 
quite elevated D-dimer, there were very few schistocytes on 
peripheral smear, elevated fibrinogen, and normal ___ and PTT, 
making DIC unlikely. Other microangiopathic hemolytic anemias 
similarly unlikely given normal mental status and normal kidney 
function. Coombs negative. LDH was down-trending at time of 
discharge.

#Chronic low-level hematuria: 
Per patient ___ bladder cyst. This was worked up in the past 
(per patient, ___ years ago), but she has not had cystoscopy in 
recent years. Would recommend follow up as an outpatient.

===========================
TRANSITIONAL ISSUES
===========================
[ ] Vitamin B12 regimen: cyanocobalamin 1000mcg IM daily x7 
days, then 1000mcg IM weekly x4 weeks. She has an Rx for the 
remaining 4 days of her ___ut please provide an Rx 
for the (4) weekly injections.

[ ] Please follow up Intrinsic Factor Autoantibody test result 
(still pending at time of discharge). If positive, she will need 
monthly B12 injections going forward.

[ ] Please check CBC and hemolysis labs (haptoglobin, LDH, total 
bilirubin, direct bilirubin) at first PCP appointment after 
discharge. If CBC not improving on the B12 injections, please 
arrange for closer follow up with hematology/oncology for 
consideration of bone marrow biopsy. If CBC improving as 
expected, please ensure follow up with hematology/oncology in 4 
weeks (appointment still pending at time of discharge).
- Discharge Hgb: 7.4
- Discharge WBC: 2.9
- Discharge Plt: 124

[ ] Please consider age appropriate cancer screening, as the 
patient has reportedly not had a colonoscopy.

[ ] Please provide referral to urology, as the patient did still 
have "small" blood in her UA. Though she was previously 
diagnosed with bladder cyst, she reports that her last 
cystoscopy was several years ago.

[ ] Left adnexal cystic structure measuring 4.2 x 3.1 x 4.5 cm, 
indeterminate, identified on pelvic ultrasound on this 
admission. Recommend follow-up ultrasound in ___ months to 
ensure stability. 

Contact: husband (no number provided), no HCP on file

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Cyanocobalamin 1000 mcg IM/SC DAILY Duration: 7 Days 
RX *cyanocobalamin (vitamin B-12) 1,000 mcg/mL 1000 mcg IM daily 
Disp #*4 Vial Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Severe vitamin B12 deficiency
Pancytopenia
Hemolytic anemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure to participate in your care.

WHY WAS I ADMITTED TO THE HOSPITAL?
You were feeling tired, short of breath, and had lost 25 lbs 
over the past few months. Your outpatient doctor found that all 
of your blood counts were low.

WHAT HAPPENED WHILE I WAS HERE?
- We found that your vitamin B12 levels were very low, so we 
started you on an injectable B12 supplement.
- The hematology/oncology doctors came to ___ you, and they felt 
that your current symptoms and lab abnormalities were related to 
the vitamin B12 deficiency.
- We tested you for pernicious anemia, a condition caused by 
problems with gut absorption of vitamin B12.

WHAT SHOULD I DO WHEN I GET HOME?
- For the next 4 days (starting on ___, please inject ___ 
of vitamin B12 daily. After that, you should take a 1000mcg 
injection of B12 weekly for the next 4 weeks.
- Please follow up with your primary care doctor within the next 
week (___).
- Please follow up with the hematology/oncology team in four 
weeks. They should be calling you within the next ___ days to 
schedule the appointment.
- Call your doctor and consider returning to the hospital if you 
notice new fevers, chills, night sweats, worsening shortness of 
breath, or lightheadedness.

We wish you the best!
Sincerely,
Your ___ Care Team
 
Followup Instructions:
___